US04105776
3-[(4-Methoxyphenyl)methylthio]-2-methylpropanoic acid
p-Methoxy-α-toluene thiol (15.4 g., 0.1 mol.) is added to a solution of methacrylic acid (8.6 g., 0.1 mol.) in 50 ml. 2N sodium hydroxide. The mixture is heated on the steam bath for 3 hours, then refluxed for two hours and cooled. The mixture is extracted with ether, then the aqueous layer is acidified with concentrated HCl and extracted with dichloromethane. The acidic extracts are washed with brine, dried (MgSO4) and evaporated in vacuo. The resulting semi-solid is taken up in 50 ml. of dichloromethane, diluted with 50 ml. hexane, and chilled. 3-[(4-methoxyphenyl)methylthio]-2-methylpropanoic acid is collected as a white crystalline solid, m.p. 74°-82° (5.5 g.).

reactant | p-Methoxy-α-toluene thiol | 0.1 mol, 15.4 g | COC1=CC=C(C=C1)CS | C8H10OS
reactant | methacrylic acid | 0.1 mol, 8.6 g | C(C(=C)C)(=O)O | C4H6O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 3-[(4-Methoxyphenyl)methylthio]-2-methylpropanoic acid | COC1=CC=C(C=C1)CSCC(C(=O)O)C | C12H16O3S
